US07723367B2
2-(1-Methyl-piperidin-3-yloxy)-nicotinonitrile
2-Fluoro-nicotinonitrile was reacted with 1-methyl-piperidin-3-ol according to the method of Example 85A to provide the title compound. MS (DCI/NH3) m/z 218 (M+1)+.

reactant | 2-Fluoro-nicotinonitrile | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | 1-methyl-piperidin-3-ol | CN1CC(CCC1)O | C6H13NO
product | 2-(1-Methyl-piperidin-3-yloxy)-nicotinonitrile | CN1CC(CCC1)OC1=C(C#N)C=CC=N1 | C12H15N3O
